US06448397B1
To a mixture of 3-phenyl-2,3-dihydro4H-1,4-benzoxazin-4-ylamine (1.042 g, 4.6 mmol) in toluene (30 mL) is added, with stirring, cyclohexane-1,3-dione (0.538 g, 4.8 mmol). The mixture is heated to 85° C. for 15 min, at which time p-toluenesulfonic acid monohydrate (0.874 g, 4.6 mmol) is added and the temperature increased to 110° C. The mixture is refluxed for 24 h, cooled to room temperature and concentrated. The residue is partitioned between CH2Cl2/1N NaOH and the organic layer is washed with brine and dried over magnesium sulfate. Column chromatography (100 g silica gel) using (acetone/hexane (25/75)) as eluent gave 0.475g (34%) of 1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one.

reactant | 3-phenyl-2,3-dihydro4H-1,4-benzoxazin-4-ylamine | 4.6 mmol, 1.042 g | C1(=CC=CC=C1)C1COC2=C(N1N)C=CC=C2 | C14H14N2O
reactant | cyclohexane-1,3-dione | 4.8 mmol, 0.538 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | p-toluenesulfonic acid monohydrate | 4.6 mmol, 0.874 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one | 0.475g, 34% | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(CCCC4N1C23)=O | C20H17NO2
